US08084448B2
5-[2-Hydroxy-4-(3-hydroxybutyl)-phenyl]-1,1-dioxo-1,2,5-thiadiazolidin-3-one
The title compound is prepared from 5-(2-benzyloxy-4-iodophenyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one and but-3-en-2-ol analogous to Example 44: (M−1)−=299; HPLC retention time=1.16 min (method B)

reactant | 5-(2-benzyloxy-4-iodophenyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)I)N1CC(NS1(=O)=O)=O | C15H13IN2O4S
reactant | but-3-en-2-ol | CC(C=C)O | C4H8O
product | 5-[2-Hydroxy-4-(3-hydroxybutyl)-phenyl]-1,1-dioxo-1,2,5-thiadiazolidin-3-one | OC1=C(C=CC(=C1)CCC(C)O)N1CC(NS1(=O)=O)=O | C12H16N2O5S
